US09145414B2
1-Methyl-1-cyclobutanol (3 mL) and concentrated sulfuric acid (0.1 mL) were added to 5-bromo-7-methyl-1H-indazole (633 mg). The reaction solution was allowed to react in a microwave reactor at 100° C. for 30 minutes, and then further allowed to react at 120° C. for 30 minutes. An aqueous sodium bicarbonate solution and ethyl acetate were added to the reaction solution. After separation, the organic layer was washed with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum, and the resultant was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 5-bromo-7-methyl-2-(1-methylcyclobutyl)-2H-indazole.

reactant | 1-Methyl-1-cyclobutanol | 3 mL | CC1(CCC1)O | C5H10O
reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-bromo-7-methyl-1H-indazole | 633 mg | BrC=1C=C2C=NNC2=C(C1)C | C8H7BrN2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-7-methyl-2-(1-methylcyclobutyl)-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)C)C1(CCC1)C | C13H15BrN2
